US06730684B1
a) Methyl 2-(3-Acetamidophenoxy)benzoate
To a stirred solution of methyl 2-iodobenzoate (10 g, 38.2 mmole) in dimethylacetamide (50 mL) was added 3-acetamidophenol (5 g, 33 mmole) and copper(I) oxide (2.5 g, 17 mmole), and the mixture was heated at reflux under argon (180° C. oil bath). After 24 h the reaction was cooled to RT and most of the solvent was distilled off. The remaining residue was purified by flash chromatography on silica gel (50% EtOAc/hexane) to give the crude title compound (4.95, 55%): MS (ES) m/e 286.2 (M+H)+. The title compound prepared in this way contained approximately 45% N,O-diarylated acetamidophenol as a contaminant: MS (ES) m/e 420.4 (M+H)+. The mixture was used without further purification.

reactant | methyl 2-iodobenzoate | 38.2 mmole, 10 g | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
reactant | 3-acetamidophenol | 33 mmole, 5 g | C(C)(=O)NC=1C=C(C=CC1)O | C8H9NO2
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
catalyst | copper(I) oxide | 17 mmole, 2.5 g | [Cu-]=O
product | Methyl 2-(3-Acetamidophenoxy)benzoate | 55% | C(C)(=O)NC=1C=C(OC2=C(C(=O)OC)C=CC=C2)C=CC1 | C16H15NO4
